US07122666B2
1(iii)′ (2R,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
3.79 ml (45.4 mmol) of pyrrolidine, 1.50 g of molecular sieves (MS4A) and 3.75 g of 20% palladium hydroxide on carbon were added to a solution of 15.00 g (41.3 mmol) of (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine [prepared as described in Preparative Example 1 (ii)′ above] in 150 ml of ethyl acetate and the mixture was then stirred for 2 hours at room temperature under a hydrogen atmosphere. At the end of this time, the reaction mixture was filtered and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was dissolved in 150 ml of tetrahydrofuran, and the solution thus obtained was added dropwise with stirring to an ice-cooled suspension of 4.70 g (124 mmol) of lithium aluminum hydride in 100 m] of tetrahydrofuran, and the reaction mixture was then stirred for a further 18 hours at room temperature. At the end of this time, 19 ml of a 4% aqueous solution of sodium hydroxide were added carefully to the reaction mixture at 0° C., and after the addition of 250 ml of ethanol, the resulting mixture was filtered. The filtrate thus obtained was concentrated by evaporation under reduced pressure and the residue was purified by chromatography on an alumina column using ethyl acetate as the eluant to afford 4.13 g (yield: 59%) of the title compound as a pale brown powder.

reactant | pyrrolidine | 45.4 mmol, 3.79 ml | N1CCCC1 | C4H9N
reactant | (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine | 41.3 mmol, 15.00 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)CC(CC(=O)OCC)=O | C19H25NO6
reactant | lithium aluminum hydride | 124 mmol, 4.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 3.75 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 4.13 g, yield: 59% | CO[C@@H]1C[C@H]2CC(CCN2C1)=O | C9H15NO2
